US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (36.2 mg, 0.0881 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with piperidine (0.035 mL, 0.35 mmol), acetic acid (0.101 mL, 1.76 mmol) and sodium triacetoxyborohydride (93 mg, 0.44 mmol), followed by purification by preparative thin-layer chromatography (hexane/ethyl acetate=1/2) to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (31.2 mg, yield 74%).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0881 mmol, 36.2 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | piperidine | 0.35 mmol, 0.035 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.76 mmol, 0.101 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.44 mmol, 93 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 31.2 mg, yield 74% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H30ClN3O3
